US04101546
3,5,6-Trichloro-2-methylthiopyrazine
A solution was prepared by dissolving 25 grams (0.115 mole) of tetrachloropyrazine in 300 milliliters of methanol. To this solution was added over a 90 minute period, a solution of 115 milliliters of ~1.0 molar sodium mercaptide in methanol. The temperature was maintained below 20° C during the addition. The reaction mixture was stirred at room temperature overnight and thereafter poured into 400 milliliters of water. The precipitate which formed was removed by filtration and recrystallized from hexane. The 3,5,6-trichloro-2-methylthiopyrazine product was recovered in a yield of 7.11 grams, 27 percent of theoretical, and melted at 45°-47° C.

reactant | tetrachloropyrazine | 0.115 mole, 25 grams | ClC1=C(N=C(C(=N1)Cl)Cl)Cl | C4Cl4N2
reactant | sodium mercaptide | ~1.0 molar, 115 milliliters | [Na+].[SH-]
reactant | water | 400 milliliters | O | H2O
reactant | methanol | 300 milliliters | CO | CH4O
product | 3,5,6-Trichloro-2-methylthiopyrazine | ClC=1C(=NC(=C(N1)Cl)Cl)SC | C5H3Cl3N2S
